US08614206B2
To a solution of 1-(benzyloxycarbonyl)-4-piperidinone (20.0 g, 85.80 mmol) in Et2O (200 mL) at 0° C. was added boron trifluoride etherate (12.0 mL, 94.40 mmol) followed by the addition of ethyl diazoacetate (11.7 mL, 94.40 mmol) maintaining the temperature below 7° C. The reaction mixture was stirred for 1 hr, quenched with a 2 M aqueous solution of sodium carbonate (150 mL) and extracted with EtOAc (3×150 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-50% EtOAc/isohexane) gave a light yellow oil. This oil (10 g, 31.30 mmol) was dissolved in DMF (75 mL) at 0° C. and sodium hydride (60% dispersion in mineral oil, 1.38 g, 34.50 mmol) was added portionwise. The reaction mixture was stirred at 0° C. for 1 hr before iodomethane (2.15 mL, 34.50 mmol) was added. The reaction was allowed to warm to room temperature and stirred for 18 hr. The mixture was diluted with Et2O (100 mL) and quenched with water (100 mL). The aqueous layer was extracted with Et2O (3×75 mL) and the combined organic layers were washed with water (2×100 mL) and brine (2×100 mL), separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (50% Et2O/isohexane) gave a light yellow oil. A portion of this oil (0.90 g, 2.70 mmol) was dissolved in MeOH (4 mL) and added to a stirred suspension of NaBH4 (0.12 g, 3.24 mmol) in MeOH (5 mL) at 0° C. The reaction mixture was stirred at 0° C. for 3 hr, before being quenched with a 1 M aqueous solution of HCl (5 mL). The aqueous layer was extracted with DCM (3×10 mL) and the combined organic layers were passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (25-100% EtOAc/isohexane) gave O1-benzyl O4-ethyl 5-hydroxy-4-methyl-azepane-1,4-dicarboxylate as a colourless oil (480 mg, 1% over three steps). 1H NMR (400 MHz, CDCl3) δ 7.37-7.28 (m, 5H), 5.17-5.10 (m, 2H), 4.20-4.07 (m, 2H), 3.78-3.20 (m, 7H), 2.32-2.24 (m, 1H), 2.07-1.86 (m, 3H), 1.73-1.62 (m, 1H), 1.30-1.19 (m, 3H). Exchangeable OH not observed.

reactant | 1-(benzyloxycarbonyl)-4-piperidinone | 85.80 mmol, 20.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | boron trifluoride etherate | 94.40 mmol, 12.0 mL | B(F)(F)F.CCOCC
reactant | ethyl diazoacetate | 94.40 mmol, 11.7 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | sodium hydride | 34.50 mmol, 1.38 g | [H-].[Na+]
reactant | iodomethane | 34.50 mmol, 2.15 mL | IC | CH3I
reactant | NaBH4 | 3.24 mmol, 0.12 g | [BH4-].[Na+]
solvent | Et2O | 200 mL | CCOCC | C4H10O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | MeOH | 4 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | O1-benzyl O4-ethyl 5-hydroxy-4-methyl-azepane-1,4-dicarboxylate | OC1C(CCN(CC1)C(=O)OCC1=CC=CC=C1)(C(=O)OCC)C | C18H25NO5
